US08603975B2
To a solution of (3R,5R)-1-benzyl-3,5-dimethylpiperazine (810 mg) in CH2Cl2 (20 ml) and 1 N NaOH (8 ml) was added Boc2O (865 mg), and the mixture was stirred at room temperature for 3 hours. The organic phase was separated, dried over MgSO4 and concentrated. The residue was chromatographed on silica gel (n-hexane:EtOAc=9:1) to give tert-butyl (2R,6R)-4-benzyl-2,6-dimethyl-1-piperazinecarboxylate (930 mg).

reactant | (3R,5R)-1-benzyl-3,5-dimethylpiperazine | 810 mg | C(C1=CC=CC=C1)N1C[C@H](N[C@@H](C1)C)C | C13H20N2
reactant | Boc2O | 865 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1 N, 8 ml | [OH-].[Na+]
product | tert-butyl (2R,6R)-4-benzyl-2,6-dimethyl-1-piperazinecarboxylate | 930 mg | C(C1=CC=CC=C1)N1C[C@H](N([C@@H](C1)C)C(=O)OC(C)(C)C)C | C18H28N2O2
